US05096899
Conversion of a group R3 ; p-nitrobenzyl 2-(4-tert-butylthio-2-oxo-1-azetidinyl)-4,4-dimethyl-5-[(1-methyl-1,2,3,4-tetrazol-5-yl)-thio]-3-oxopentanoate
A mixture of 118 mg (0.25 mmol) of p-nitrobenzyl 2-(4-tert-butylthio-2-oxo-1-azetidinyl)-5-chloro-4,4-dimethyl-3-oxopentanoate and 82 mg (0.59 mmol) of the Na salt of 1-methyl-5-mercapto-1,2,3,4-tetrazole are stirred for 20 hours at room temperature in 0.2 ml of dimethylformamide. The reaction mixture is chromatographed directly on a chromatography column containing 6 g of silica gel using toluene:ethyl acetate (19:1), to give 60 mg of pure title compound as a non-crystalline solid.

reactant | p-nitrobenzyl 2-(4-tert-butylthio-2-oxo-1-azetidinyl)-5-chloro-4,4-dimethyl-3-oxopentanoate | 0.25 mmol, 118 mg | C(C)(C)(C)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C(CCl)(C)C)=O)=O | C21H27ClN2O6S
reactant | 1-methyl-5-mercapto-1,2,3,4-tetrazole | CN1N=NN=C1S | C2H4N4S
solvent | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | p-nitrobenzyl 2-(4-tert-butylthio-2-oxo-1-azetidinyl)-4,4-dimethyl-5-[(1-methyl-1,2,3,4-tetrazol-5-yl)-thio]-3-oxopentanoate | 60 mg | C(C)(C)(C)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C(CSC1=NN=NN1C)(C)C)=O)=O | C23H30N6O6S2
